US06509328B1
{3-[3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-butyl Ester
Prepared from (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G9) (142 mg, 0.5 mmol) and 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J10) (170 mg, 0.63 mmol) according to the general procedure K. Obtained as a light yellow foam (248 mg).

reactant | (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.5 mmol, 142 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)N)=O | C17H20N2O2
reactant | 6-(3-imidazol-1-yl-phenyl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.63 mmol, 170 mg | N1(C=NC=C1)C=1C=C(C=CC1)C1=CC(OC(O1)(C)C)=O | C15H14N2O3
product | {3-[3-(3-Imidazol-1-yl-phenyl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-butyl Ester | 248 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(CC(=O)C1=CC(=CC=C1)N1C=NC=C1)=O)=O | C29H28N4O4
